US08207167B2
{3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-(2-methoxy-ethylamino)-ethyl]-phenyl}-carbamic acid benzyl ester
1-(3-(Benzyloxycarbonylamino)phenyl)-2-(tert-butyldimethylsilyloxy)ethyl methanesulfonate (3.5 g) was dissolved in dry THF (10 mL) and methoxyethylamine (5.4 g) was added in a sealed tube and heated to 70° C. for 16 hours. Water was added and the reaction mixture extracted with DCM (2×20 mL). The organic phase was separated, dried over Na2SO4 and concentrated to give the crude product, which was purified by column chromatography to give the title compound (1 g, 30%).

reactant | 1-(3-(Benzyloxycarbonylamino)phenyl)-2-(tert-butyldimethylsilyloxy)ethyl methanesulfonate | 3.5 g | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)C1=CC(=CC=C1)NC(=O)OCC1=CC=CC=C1 | C23H33NO6SSi
reactant | methoxyethylamine | 5.4 g | COCCN | C3H9NO
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-(2-methoxy-ethylamino)-ethyl]-phenyl}-carbamic acid benzyl ester | 1 g, 30% | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C(CO[Si](C)(C)C(C)(C)C)NCCOC)=O | C25H38N2O4Si
